US06521643B1
To a solution of N-(tert-butoxycarbonyl)-N′-ethyl-N″-(1-(4-methylpyridin-2-yl)pyrrolidin-3-yl)guanidine (200 mg) in ethanol (2 ml) was added a solution of hydrogen chloride in 1,4-dioxane (4N, 3 ml), and the mixture was stirred at ambient temperature for 6 hours. The solvent was evaporated under reduced pressure. To the residue was added 10% ethanol in ethyl acetate (50 ml), and the resultant precipitate was collected by filtration and dried under reduced pressure to give N-ethyl-N′-(1-(4-methylpyridin-2-yl)pyrrolidin-3-yl)guanidine dihydrochloride (120 mg).

reactant | N-(tert-butoxycarbonyl)-N′-ethyl-N″-(1-(4-methylpyridin-2-yl)pyrrolidin-3-yl)guanidine | 200 mg | C(C)(C)(C)OC(=O)NC(=NC1CN(CC1)C1=NC=CC(=C1)C)NCC | C18H29N5O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | 1,4-dioxane | 4N, 3 ml | O1CCOCC1 | C4H8O2
product | N-ethyl-N′-(1-(4-methylpyridin-2-yl)pyrrolidin-3-yl)guanidine dihydrochloride | 120 mg | Cl.Cl.C(C)NC(=N)NC1CN(CC1)C1=NC=CC(=C1)C | InChI=1S/C13H21N5.2ClH/c1-3-15-13(14)17-11-5-7-18(9-11)12-8-10(2)4-6-16-12;;/h4,6,8,11H,3,5,7,9H2,1-2H3,(H3,14,15,17);2*1H
